US04393216
2,4-Dinitro-6-chloroaniline 2.7 g (12.5 m moles), selenium 1.98 g (25.0 m moles), water 1.6 ml (89 m moles), triethylamine 5.0 g (50 m moles) and tetrahydrofuran 100 ml were placed in a 200-ml capacity autoclave, and stirred at a temperature of 80° C. for five hours under carbon monoxide of 20 Kg/cm2. The reaction mixture obtained was worked up in the same manner as in EXAMPLE 1, to provide 4-chloro-6 -aminobenzimidazolone in 84% yield.

reactant | 2,4-Dinitro-6-chloroaniline | 2.7 g | [N+](=O)([O-])C1=C(N)C(=CC(=C1)[N+](=O)[O-])Cl | C6H4ClN3O4
reactant | selenium | 1.98 g | [Se] | Se
reactant | water | 1.6 ml | O | H2O
reactant | triethylamine | 5.0 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-chloro-6 -aminobenzimidazolone | 84% yield | ClC1=CC(=CC2=NC(N=C21)=O)N | C7H4ClN3O
